US07915415B2
Step 1: Preparation of 2-(n-butyl)-6-aminophenanthridine
20.0 g (87.7 mmol) 2-(1,3,2-dioxaborinan-2-yl)benzonitrile, 13.7 g (73.1 mmol) 2-bromo-4-butylaniline, 1.70 g (1.46 mmol) tetrakis(triphenylphosphine)palladium(0), and 27.2 g (198 mmol) potassium carbonate where refluxed in 400 mL toluene and 200 mL ethanol under N2 atmosphere for 20 h. HPLC and TLC revealed almost complete consumption of the aniline. An additional 1.8 g 2-(1,3,2-dioxaborinan-2-yl)benzonitrile was added and refluxed continued for an additional 18 h. The reaction mixture was cooled and passed through a filter. The solids were washed with ethyl acetate to remove organics from the collected base. The filtrate was then evaporated down and dried on silica. The sample was purified using silica gel chromatography with 100% ethyl acetate as the eluent. The product fractions were then evaporated down to a minimal amount and the product recrystallized from EtOAc/hexanes to give 12.0 g of the title compound as light yellow solids (65.9% yield, GC-MS confirmed).

reactant | 2-(1,3,2-dioxaborinan-2-yl)benzonitrile | 87.7 mmol, 20.0 g | O1B(OCCC1)C1=C(C#N)C=CC=C1 | C10H10BNO2
reactant | 2-bromo-4-butylaniline | 73.1 mmol, 13.7 g | BrC1=C(N)C=CC(=C1)CCCC | C10H14BrN
reactant | potassium carbonate | 198 mmol, 27.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 200 mL | C(C)O | C2H6O
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.46 mmol, 1.70 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(n-butyl)-6-aminophenanthridine | 12.0 g, 65.9% yield | C(CCC)C1=CC2=C3C=CC=CC3=C(N=C2C=C1)N | C17H18N2
